US03932496
To a solution containing 90 parts of acetylene dissolved in 600 parts by volume of tetrahydrofuran is added, over a period of about 50 minutes at -70°, 600 parts by volume of tetrahydrofuran containing 133 parts of ethyl magnesium bromide. Acetylene gas is continuously passed through the mixture during the addition period. Following that addition, the mixture is stirred at approximately -40° for about 45 minutes. To that mixture is then added, with stirring under nitrogen over a period of about 1 hour, 80 parts by volume of 2,2-dimethyl-n-hexaldehyde dissolved in 350 parts by volume of tetra=hydrofuran. Stirring at room temperature is continued for about 16 hours, at the end of which time approximately 125 parts by volume of saturated aqueous ammonium chloride is added slowly with stirring. The precipitate which forms is removed by filtration and the filtrate is partially concentrated, then diluted with ether and again filtered. The filtrate is stripped of solvent, then is distilled under reduced pressure to afford 4,4-dimethyl-1-octyn-3-ol, boiling at about 55°-65° at a pressure of about 3 mm.

reactant | acetylene | C#C | C2H2
reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | 2,2-dimethyl-n-hexaldehyde | CC(C=O)(CCCC)C | C8H16O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hydrofuran | C1CCOC1 | C4H8O
product | 4,4-dimethyl-1-octyn-3-ol | CC(C(C#C)O)(CCCC)C | C10H18O
